US06552188B2
Synthesis of 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]-methyl]homopiperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (588 mg) and homopiperazine (801 mg) were treated in the same manner as in Preparation Example 4 to obtain the title compound.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 588 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | homopiperazine | 801 mg | N1CCNCCC1 | C5H12N2
product | 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]-methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCCC1 | C20H27N3O3
